US05804588
4-Nitrophenyl 2[(t-butyloxycarbonyl)(methyl)amino]-8-methoxyquinoline-5-carboxylate
2-[(t-Butyloxycarbonyl)(methyl)amino]-8-methoxyquinoline-5-carboxylic acid (0.311 g), ethyldimethylaminopropylcarbodiimide hydrochloride (0.269 g), 4-nitrophenol (0.195 g), N,N-dimethylaminopyridine (20 mg) and dichloromethane (20 ml) were combined and then stirred at room temperature for 17 h. The reaction mixture was evaporated in vacuo onto silica and purified by flash chromatography to give the title compound (0.384 g) as a pale yellow solid.

reactant | 2-[(t-Butyloxycarbonyl)(methyl)amino]-8-methoxyquinoline-5-carboxylic acid | 0.311 g | C(C)(C)(C)OC(=O)N(C1=NC=2C(=CC=C(C2C=C1)C(=O)O)OC)C | C17H20N2O5
reactant | ethyldimethylaminopropylcarbodiimide hydrochloride | 0.269 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-nitrophenol | 0.195 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Nitrophenyl 2[(t-butyloxycarbonyl)(methyl)amino]-8-methoxyquinoline-5-carboxylate | 0.384 g | C(C)(C)(C)OC(=O)N(C1=NC=2C(=CC=C(C2C=C1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)C | C23H23N3O7
